US06716862B2
5-(3′,5′-Bis(trifluoromethyl)biphen-4-ylmethyl)-5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione
Prepared analogously to Example 9 from from 5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione and 4′-bromomethyl-3,5-bis(trifluoromethyl)biphenyl in N,N-dimethylformamide. Trituration with diethyl ether provided a white solid. 1H NMR: δ 8.43 (br s, 1H), 7.91-7.99 (m, 4H), 7.85 (s, 1H), 7.53 (dd, J=6.5, 1.8 Hz, 2H), 7.33 (d, J=8.3 Hz, 2H), 7.07 (dm, J=9.0 Hz, 2H), 4.00 (A of AB, J=13.7 Hz, 1H), 3.93 (s, 3H), 3.42 (B of AB), J=13.7 Hz, 1H). MS (m/e): 588.5 (M−H)−. Anal: Calc for C25H17F6NO5S2.C3H7NO: 50.75% C, 3.65% H, 4.23% N; Found: 50.70% C, 3.60% H, 4.01% N. MP: 122-125° C.

reactant | 5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione | COC1=CC=C(C=C1)S(=O)(=O)C1C(NC(S1)=O)=O | C10H9NO5S2
reactant | 4′-bromomethyl-3,5-bis(trifluoromethyl)biphenyl | BrCC1=CC=C(C=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C15H9BrF6
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(3′,5′-Bis(trifluoromethyl)biphen-4-ylmethyl)-5-(4-methoxybenzenesulfonyl)thiazolidine-2,4-dione | FC(C=1C=C(C2=CC=C(C=C2)CC2(C(NC(S2)=O)=O)S(=O)(=O)C2=CC=C(C=C2)OC)C=C(C1)C(F)(F)F)(F)F | C25H17F6NO5S2
